US09382238B2
A mixture of 2-methyl-5-(3-nitro-5-(trifluoromethyl)phenyl)-1,3,4-oxadiazole (20 g, 73.2 mmol) and Pd/C (0.779 g, 7.32 mmol) in MeOH (25 mL) was stirred for 12 h at 35 psi under H2 atmosphere at 25° C. Then the mixture was filtered and the filtrate was concentrated to give the residue which was crystallized with MeOH (15 mL) to yield a gray solid of 3-(5-methyl-1,3,4-oxadiazol-2-yl)-5-(trifluoromethyl)aniline (17 g, 66.4 mmol, 91% yield): 1H NMR (400 MHz, CD3OD) δ 7.46 (s, 1H), 7.42 (s, 1H), 7.07 (s, 1H), 2.61 (s, 3H); ES-LCMS m/z 244 (M+H).

reactant | 2-methyl-5-(3-nitro-5-(trifluoromethyl)phenyl)-1,3,4-oxadiazole | 73.2 mmol, 20 g | CC=1OC(=NN1)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C10H6F3N3O3
solvent | MeOH | 25 mL | CO | CH4O
catalyst | Pd/C | 7.32 mmol, 0.779 g | [Pd] | Pd
product | 3-(5-methyl-1,3,4-oxadiazol-2-yl)-5-(trifluoromethyl)aniline | 66.4 mmol, 17 g, 91% yield | CC1=NN=C(O1)C=1C=C(N)C=C(C1)C(F)(F)F | C10H8F3N3O
